US09212187B2
Synthesis of 4-{[[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid
A 1N-sodium hydroxide aqueous solution(0.72 ml) was added to a methanol solution (2 ml) of 4-{[[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid methyl ester(153 mg). The mixture was stirred at 50° C. for 3 hours. The reaction mixture was condensed under reduced pressure. Water was added to the residue, and acetic acid was added for neutralization. The mixture was extracted using dichloromethane. The organic layer was dried with anhydrous sodium sulfate, and condensed under reduced pressure. Diisopropyl ether was added to the residue. The generated insoluble matter was separated by filtration and dried to give the title compound(115 mg) as a white powder.

reactant | sodium hydroxide | 0.72 ml | [OH-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
reactant | 4-{[[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid methyl ester | 153 mg | COC(C1=CC=C(C=C1)CN(CCC=1C=NC=CC1)CCCCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O | C31H35N3O4
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-{[[5-(1-methyl-2-oxo-1,2-dihydroquinolin-6-yloxy)pentyl]-(2-pyridin-3-ylethyl)amino]methyl}benzoic acid | 115 mg | CN1C(C=CC2=CC(=CC=C12)OCCCCCN(CCC=1C=NC=CC1)CC1=CC=C(C(=O)O)C=C1)=O | C30H33N3O4
